* source LT1167_PSPICE
X_U1         N00723 N00772 N00757 0 N00234 N00220 VCC N00729 LT1167/LT
C_C5         0 VCC  0.1uF  TC=0,0 
X_R4         N00220 PRESSURE awbresistor PARAMS: RES=1K ESL=100M RESL=100
+  CS=100U RTMPL=100M RTMPQ=100U
X_R8         N00234 N00331 awbresistor PARAMS: RES=1K ESL=100M RESL=100 CS=100U
+  RTMPL=100M RTMPQ=100U
X_R7         N00331 VCC awbresistor PARAMS: RES=1K ESL=100M RESL=100 CS=100U
+  RTMPL=100M RTMPQ=100U
D_D1         0 N00331 BZT55B10 
X_R9         0 N00234 awbresistor PARAMS: RES=1K ESL=100M RESL=100 CS=100U
+  RTMPL=100M RTMPQ=100U
C_C3         0 VCC  1000pF  TC=0,0 
X_R3         N00729 N00723 awbresistor PARAMS: RES=1K ESL=100M RESL=100 CS=100U
+  RTMPL=100M RTMPQ=100U
C_C4         N00772 N00757  0.1uF  TC=0,0 
X_R1         OUT- N00757 awbresistor PARAMS: RES=1K ESL=100M RESL=100 CS=100U
+  RTMPL=100M RTMPQ=100U
X_R2         OUT+ N00772 awbresistor PARAMS: RES=1K ESL=100M RESL=100 CS=100U
+  RTMPL=100M RTMPQ=100U
C_C6         OUT- 0  10pF  TC=0,0 
C_C1         N00757 0  1000pF  TC=0,0 
C_C7         0 OUT+  10pF  TC=0,0 
C_C2         0 N00772  1000pF  TC=0,0 
V_V1         N02688 OUT-  
+EXP 1 5 0.5 0.2 1.750 0.780
V_V2         OUT+ 0 1V
C_C8         OUT- N02688  1000pF  TC=0,0 
